US05221752
[2-Hydroxy-2-(N-t-butyloxycarbonylpyrrolidin-2-yl)acetyl]-D-leucylvaline benzyl ester (200 mg) was added to dry dichloromethane (1 ml) and 4N hydrochloric acid/dioxane (1 ml) was added to the solution under cooling with ice to conduct a reaction at room temperature for 1.5 h. The reaction liquid was concentrated under reduced pressure and the residue was washed with n-hexane and dried to give 2-hydroxy-2-(pyrrolidin-2-yl)acetyl]-D-leucylvaline benzyl ester hydrochloride.

reactant | [2-Hydroxy-2-(N-t-butyloxycarbonylpyrrolidin-2-yl)acetyl]-D-leucylvaline benzyl ester | 200 mg | C(C1=CC=CC=C1)OC([C@@H](NC([C@H](NC(C(C1N(CCC1)C(=O)OC(C)(C)C)O)=O)CC(C)C)=O)C(C)C)=O | C29H45N3O7
reactant | hydrochloric acid dioxane | 4N, 1 ml | Cl.O1CCOCC1
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | leucylvaline benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N)CC(C)C)=O)C(C)C)=O | InChI=1S/C18H28N2O3.ClH/c1-12(2)10-15(19)17(21)20-16(13(3)4)18(22)23-11-14-8-6-5-7-9-14;/h5-9,12-13,15-16H,10-11,19H2,1-4H3,(H,20,21);1H/t15-,16-;/m0./s1
